US07678866B2
To 60 mL of water, 60 mL of ethanol and 2.0 mL of 37% concentrated hydrochloric acid were added, and then, 11.7 g (0.022 mol) of N-methyldioleylamine was added. The mixture was heated to 60° C. to give a solution of N-methyldioleylamine hydrochloride. To this solution, 20 g of hectolite was added. The thus-obtained slurry was stirred at 60° C. for 3 hours. The supernatant was removed, and the residual liquid was washed with 1 L of water at 60° C. and then dried at 60° C. under a pressure of 10−3 Torr for 24 hours. The dried product was pulverized by a jet mill to give a modified hectolite having an average particle diameter of 5.2 μm. Elemental analysis of the modified hectolite revealed that the amount of N-methyldioleylammonium ion was 0.85 mmol per g of the modified hectolite.

reactant | water | 60 mL | O | H2O
reactant | hydrochloric acid | 2.0 mL | Cl | ClH
reactant | N-methyldioleylamine | 0.022 mol, 11.7 g | CN(CCCCCCCC\C=C/CCCCCCCC)CCCCCCCC\C=C/CCCCCCCC | C37H73N
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | N-methyldioleylamine hydrochloride | Cl.CN(CCCCCCCC\C=C/CCCCCCCC)CCCCCCCC\C=C/CCCCCCCC | InChI=1S/C37H73N.ClH/c1-4-6-8-10-12-14-16-18-20-22-24-26-28-30-32-34-36-38(3)37-35-33-31-29-27-25-23-21-19-17-15-13-11-9-7-5-2;/h18-21H,4-17,22-37H2,1-3H3;1H/b20-18-,21-19-;
